US06403586B1
Preparation of 6-(3-Chloro-4-fluorophenyl)-2-cinnamyl-4-ethoxycarbonyl-2H-pyridazin-3-one
Using 6-(3-chloro-4-fluorophenyl)-4-ethoxycarbonyl-2H-pyridazin-3-one and cinnamyl bromide as starting materials, the procedures of Example 1 were repeated likewise, whereby the title compound was obtained in a yield of 59.3%.

reactant | 6-(3-chloro-4-fluorophenyl)-4-ethoxycarbonyl-2H-pyridazin-3-one | ClC=1C=C(C=CC1F)C=1C=C(C(NN1)=O)C(=O)OCC | C13H10ClFN2O3
reactant | cinnamyl bromide | C(C=CC1=CC=CC=C1)Br | C9H9Br
product | 6-(3-Chloro-4-fluorophenyl)-2-cinnamyl-4-ethoxycarbonyl-2H-pyridazin-3-one | yield of 59.3% | ClC=1C=C(C=CC1F)C=1C=C(C(N(N1)CC=CC1=CC=CC=C1)=O)C(=O)OCC | C22H18ClFN2O3
